US04988681
Production of methyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate
(Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoic acid was treated in a similar manner as in Example 52 except that HCl-methanol was used instead of HCl-ethanol used in Example 52. The captioned compound was obtained as a colorless oil.

reactant | (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoic acid | C1(CCCCC1)\C=C(\C(=O)O)/CP(=O)(CC(C)C)O | C14H25O4P
reactant | HCl methanol | Cl.CO
product | methyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate | C1(CCCCC1)\C=C(\C(=O)OC)/CP(=O)(CC(C)C)O | C15H27O4P
